US07018997B2
Ethyl 7-fluoro-imidazo[2,1-b]-benzthiazole-2-carboxylate was prepared according to the procedure as outlined in Example 1, (Step 1). Starting from 6-fluoro-2-amino benzothiazole (10.0 g, 59.5 m.mol) and ethyl bromopyruvate (17.4 g, 89.2 mmol), 3.0 g (19% Yield) of ethyl 7-fluoro-imidazo[2,1-b]-benzthiazole-2-carboxylate was isolated as a brown semi-solid. (M+H) 265.

reactant | 6-fluoro-2-amino benzothiazole | 10.0 g | FC1=CC2=C(N=C(S2)N)C=C1 | C7H5FN2S
reactant | ethyl bromopyruvate | 89.2 mmol, 17.4 g | BrCC(C(=O)OCC)=O | C5H7BrO3
product | ethyl 7-fluoro-imidazo[2,1-b]-benzthiazole-2-carboxylate | 3.0 g, 19% Yield | FC1=CC2=C(N3C(S2)=NC(=C3)C(=O)OCC)C=C1 | C12H9FN2O2S
